US07189754B2
Methyl (2S,4EZ)-4-(methoxyimino)-1-[4-(5-pyrimidinyl)benzoyl]-2-pyrrolidinecarboxylate
Following the general methods as outlined in Example 4, starting from 1-tert-butyl 2-methyl (2S,4EZ)-4-(methoxyimino)-1,2-pyrrolidinedicarboxylate and 4-(5-pyrimidinyl)benzoic acid, the title compound was obtained, after flash-chromatography, as a mixture of two isomers as an oil in 68% yield (93.0% purity by HPLC).

reactant | 1-tert-butyl 2-methyl (2S,4EZ)-4-(methoxyimino)-1,2-pyrrolidinedicarboxylate | CON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C12H20N2O5
reactant | 4-(5-pyrimidinyl)benzoic acid | N1=CN=CC(=C1)C1=CC=C(C(=O)O)C=C1 | C11H8N2O2
product | Methyl (2S,4EZ)-4-(methoxyimino)-1-[4-(5-pyrimidinyl)benzoyl]-2-pyrrolidinecarboxylate | 68% yield | CON=C1C[C@H](N(C1)C(C1=CC=C(C=C1)C=1C=NC=NC1)=O)C(=O)OC | C18H18N4O4
